US04654335
A solution of 2-[[2-(trifluoromethyl)phenyl]methylene]-3-oxobutanoic acid, methyl ester (1.8 g., 6.61 mmole) in dimethylformamide (5 ml.) is treated with 2-aminothiophenol (919 mg., 6.61 mmole) at room temperature. The reaction is stirred at room temperature for about 72 hours. The reaction is then heated at 65°-70° (oil bath temperature) for 10 hours. It is cooled to room temperature and diluted with ethyl acetate (50 ml.). The solution is thoroughly washed with water, sodium bicarbonate, and brine. After drying over anhydrous magnesium sulfate, the solvent is stripped off to give a yellow solid. Recrystallization from isopropyl ether-dichloromethane gives 783 mg. of product as fluffy needles. The mother liquor is purified by flash chromatography (20% ethyl acetate in hexane) and the resulting solid is recrystallized from isopropyl ether-dichloromethane to give 153 g. of additional product. Recrystallization from isopropyl ether-dichloromethane gives an analytically pure sample of 2,5-dihydro-4-methyl-2-[2-(trifluoromethyl)phenyl]-1,5-benzothiazepine-3-carboxylic acid, methyl ester; m.p. 165°-166.5°. TLC (silica gel, hexane: ethyl acetate, 60:40) Rf =0.36.

reactant | 2-[[2-(trifluoromethyl)phenyl]methylene]-3-oxobutanoic acid, methyl ester | 6.61 mmole, 1.8 g | FC(C1=C(C=CC=C1)C=C(C(=O)OC)C(C)=O)(F)F | C13H11F3O3
reactant | 2-aminothiophenol | 6.61 mmole, 919 mg | NC1=C(C=CC=C1)S | C6H7NS
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2,5-dihydro-4-methyl-2-[2-(trifluoromethyl)phenyl]-1,5-benzothiazepine-3-carboxylic acid, methyl ester | CC1=C(C(SC2=C(N1)C=CC=C2)C2=C(C=CC=C2)C(F)(F)F)C(=O)OC | C19H16F3NO2S
